US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1-methyl-1H-imidazole-4-carboxamide
(S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (200 mg, 0.77 mmol) was coupled with 1-methyl-1H-imidazole-4-carboxylic acid (145 mg, 1.15 mmol) using the method of Example 34(d). Crude product was purified twice by CombiFlash (1st column: C-18, eluent: 0-100% MeCN in water; 2nd column: silica, eluent 100% DCM) to yield a total of 121 mg (43%) of the title compound. 1H-NMR (400 MHz; CDCl3): δ 1.22 (d, 3H), 3.74 (s, 3H), 4.27 (dd, 1H), 4.41 (dd, 1H), 4.50-4.62 (m, 1H), 6.61 (d, 1H), 7.43 (d, 1H), 7.48 (d, 1H), 7.50 (d, 1H), 7.66 (d, 1H), 7.78 (dd, 1H), 7.86 (d, 1H), 8.17 (d, 1H).

reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.77 mmol, 200 mg | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
reactant | 1-methyl-1H-imidazole-4-carboxylic acid | 1.15 mmol, 145 mg | CN1C=NC(=C1)C(=O)O | C5H6N2O2
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1-methyl-1H-imidazole-4-carboxamide | 121 mg, 43% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=CN(C1)C | C18H17ClN6O
